US06949571B2
3-(2-Ethylpyridin-5-yl)-5-(2-pyridyl)-1-phenyl-1,2-dihydropyridin-2-one
13 mg of 3-(2-chloropyridin-5-yl)-5-(2-pyridyl)-1-phenyl-1,2-dihydropyridin-2-one was dissolved in 20 ml of dimethylformamide, followed by the addition of 10 mg of potassium carbonate and 2 mg of tetrakistriphenylphosphine palladium. Under stirring at room temperature in nitrogen atmosphere, triethylborane (1.0M tetrahydrofuran solution) was added dropwise thereinto, followed by heating under stirring at 100° C. for 1 hour in nitrogen atmosphere. After the reaction mixture was cooled to room temperature, water was added thereto, and extracted with ethyl acetate. The organic layer was washed with brine, and then dried over anhydrous magnesium sulfate. The solvent was evaporated, and the residue was purified by silica gel chromatography (hexane/ethyl acetate system), to give 4 mg of the title compound.

reactant | 3-(2-chloropyridin-5-yl)-5-(2-pyridyl)-1-phenyl-1,2-dihydropyridin-2-one | 13 mg | ClC1=NC=C(C=C1)C=1C(N(C=C(C1)C1=NC=CC=C1)C1=CC=CC=C1)=O | C21H14ClN3O
reactant | potassium carbonate | 10 mg | C([O-])([O-])=O.[K+].[K+]
reactant | triethylborane | 1.0M | C(C)B(CC)CC | C6H15B
reactant | water | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 3-(2-Ethylpyridin-5-yl)-5-(2-pyridyl)-1-phenyl-1,2-dihydropyridin-2-one | 4 mg | C(C)C1=NC=C(C=C1)C=1C(N(C=C(C1)C1=NC=CC=C1)C1=CC=CC=C1)=O | C23H19N3O
